US08809361B2
5-(6-Methanesulfonyl-pyridin-3-yl)-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine]
The title compound is prepared from 5-chloro-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] and 6-methylsulfonyl-pyridine-3-boronic acid pinacol ester following a procedure analogous to that described for Example 1; the reaction is conducted in a microwave oven at 140° C. LC (method 3): tR=1.07 min; Mass spectrum (ESI+): m/z=486 [M+H]+.

reactant | 5-chloro-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | ClC=1C=C2C(=CN1)OC1(CC3(CCN(CC3)C(=O)OC(C)(C)C)C1)C2 | C19H25ClN2O3
reactant | 6-methylsulfonyl-pyridine-3-boronic acid pinacol ester | CS(=O)(=O)C1=CC=C(C=N1)B1OC(C)(C)C(C)(C)O1 | C12H18BNO4S
product | 5-(6-Methanesulfonyl-pyridin-3-yl)-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | CS(=O)(=O)C1=CC=C(C=N1)C=1C=C2C(=CN1)OC1(CC3(CCN(CC3)C(=O)OC(C)(C)C)C1)C2 | C25H31N3O5S
